US08278457B2
trans-2-(4-Bromophenoxy)cyclohexanol (5.305 g, 19.56 mmol) was dissolved in ethyl acetate (196 mL) and treated with vinyl acetate (3.37 g, 39.1 mmol), followed by lipase enzyme from Candida antarctica (Novozyme 435, Sigma L4777, lipase immobilized on acrylic resin, 5.3 g). The reaction was capped and stirred for 18 hours, then filtered through Celite® and rinsed with ethyl acetate (500 mL). Concentration of the filtrate in vacuo provided a pale yellow oil, which was purified via silica gel chromatography (Gradient: 0% to 10% ethyl acetate in heptane) to afford (1R,2R)-2-(4-bromophenoxy)cyclohexyl acetate, the less polar product, as a colorless oil. Yield: 2.047 g, 6.54 mmol, 33%. Data for (1R,2R)-2-(4-bromophenoxy)cyclohexyl acetate: 1H NMR (400 MHz, CDCl3) δ 1.32-1.59 (m, 4H), 1.71-1.80 (m, 2H), 1.95 (s, 3H), 2.02-2.14 (m, 2H), 4.17 (ddd, J=9.6, 8.1, 4.4 Hz, 1H), 4.96 (m, 1H), 6.84 (d, J=9.0 Hz, 2H), 7.36 (d, J=9.1 Hz, 2H). Enantiomeric alcohol (1S,2S)-2-(4-bromophenoxy)cyclohexanol, the more polar product, was obtained as a white solid (3.57 g). Data for (1S,2S)-2-(4-bromophenoxy)cyclohexanol: 1H NMR (400 MHz, CDCl3) δ 1.26-1.46 (m, 4H), 1.74-1.79 (m, 2H), 2.08-2.15 (m, 2H), 2.50 (br s, 1H), 3.72 (ddd, J=10.6, 8.5, 4.6 Hz, 1H), 3.96 (m, 1H), 6.84 (d, J=9.0 Hz, 2H), 7.38 (d, J=9.0 Hz, 2H). The absolute configurations of these compounds were assigned on the basis of an X-ray crystal structure of the enantiomer of N-(1S,2R)-2-(4-bromophenoxy)cyclohexyl]propane-2-sulfonamide (see step 7 below).

reactant | trans-2-(4-Bromophenoxy)cyclohexanol | 19.56 mmol, 5.305 g | BrC1=CC=C(O[C@H]2[C@@H](CCCC2)O)C=C1 | C12H15BrO2
reactant | vinyl acetate | 39.1 mmol, 3.37 g | C(C)(=O)OC=C | C4H6O2
solvent | ethyl acetate | 196 mL | C(C)(=O)OCC | C4H8O2
product | (1R,2R)-2-(4-bromophenoxy)cyclohexyl acetate | C(C)(=O)O[C@H]1[C@@H](CCCC1)OC1=CC=C(C=C1)Br | C14H17BrO3
